US05359134
Phenylterephthalic acid is valuable as an interemediate in the preparation of liquid crystalline polyesters. For example, U.S. Pat. No. 4,391,966 describes the use of phenylterephthalic acid in preparing melt-spinnable, anisotropic melt forming aromatic polyesters. Further, E. K. Weisburger and J. H. Weisburger describe the reaction of 2,5-xylylmagnesium bromide with either cyclohexanone or 3-bromocyclohexene to provide 1-(2,5-xylyl)cyclohexene, which is then dehydrogenated using sulfur to provide 2,5-dimethylbiphenyl, which is oxidized by KMnO4 to provide phenylterephthalic acid in 74% yield. The permangenate process provides an isolation and purification problem, since a relatively large amount of manganese waste is produced.

reactant | 2,5-xylylmagnesium bromide | C1(=C(C=CC(=C1)C)C)[Mg]Br
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | 3-bromocyclohexene | BrC1C=CCCC1 | C6H9Br
product | 1-(2,5-xylyl)cyclohexene | C1(=C(C=CC(=C1)C)C)C1=CCCCC1 | C14H18
